US04727082
In 500 ml of methanol were dissolved 5.2 g of diethyl 4-[2-(4-aminobutoxy)-5-nitrophenyl]-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate and 1.7 g of glycidyl phenyl ether, and the solution thus formed was refluxed under heating for 16 hours. The solvent was distilled off under reduced pressure. The residue was subjected to silica gel column chromatography, and the product was eluted with chlroform-methanol (95:5 v/v). Crude crystals were recrystallized from ethanol to give 2.2 g of diethyl 4-[2-[4-(2-hydroxy-3-phenoxypropylamino)butoxy]-5-nitrophenyl]-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate.

reactant | diethyl 4-[2-(4-aminobutoxy)-5-nitrophenyl]-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | 5.2 g | NCCCCOC1=C(C=C(C=C1)[N+](=O)[O-])C1C(=C(NC(=C1C(=O)OCC)C)C)C(=O)OCC | C23H31N3O7
reactant | glycidyl phenyl ether | 1.7 g | C1(=CC=CC=C1)OCC1CO1 | C9H10O2
solvent | methanol | 500 ml | CO | CH4O
product | diethyl 4-[2-[4-(2-hydroxy-3-phenoxypropylamino)butoxy]-5-nitrophenyl]-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | 2.2 g | OC(CNCCCCOC1=C(C=C(C=C1)[N+](=O)[O-])C1C(=C(NC(=C1C(=O)OCC)C)C)C(=O)OCC)COC1=CC=CC=C1 | C32H41N3O9
